US08084469B2
Methyl 1-(morpholin-4-ylcarbonyl)-5-[4-(trifluoromethyl)phenyl]piperidine-3-carboxylate [racemic cis/trans isomer mixture]
According to General Method 3A, 9.25 g (32.2 mmol) of methyl 5-[4-(trifluoromethyl)phenyl]piperidine-3-carboxylate and 9.63 g (64.7 mmol) of morpholine-4-carbonyl chloride were reacted. This gave 16.3 g of crude product in 76% purity (LC-MS), which was converted without any further purifying operations.

reactant | methyl 5-[4-(trifluoromethyl)phenyl]piperidine-3-carboxylate | 32.2 mmol, 9.25 g | FC(C1=CC=C(C=C1)C1CC(CNC1)C(=O)OC)(F)F | C14H16F3NO2
reactant | morpholine-4-carbonyl chloride | 64.7 mmol, 9.63 g | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | Methyl 1-(morpholin-4-ylcarbonyl)-5-[4-(trifluoromethyl)phenyl]piperidine-3-carboxylate | N1(CCOCC1)C(=O)N1CC(CC(C1)C1=CC=C(C=C1)C(F)(F)F)C(=O)OC | C19H23F3N2O4
